US09062055B2
Step 5. tert-Butyl {1-[1-(3-fluorophenyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]ethyl}carbamate
Di-tert-butyldicarbonate (0.82 g, 3.8 mmol) was added to a mixture of 1-[1-(3-fluorophenyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]ethanamine (0.24 g, 0.94 mmol) and triethylamine (1.0 mL, 7.5 mmol) in tetrahydrofuran (8 mL). After 30 minutes, the mixture was quenched with saturated NaHCO3 solution and then extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, concentrated and purified on silica gel (eluting with 0-5% MeOH/dichloromethane) to give the desired product (0.16 g, 48%). LCMS calculated for C20H23FN3O2(M+H)+: m/z=356.2. Found: 356.1.

reactant | Di-tert-butyldicarbonate | 3.8 mmol, 0.82 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-[1-(3-fluorophenyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]ethanamine | 0.94 mmol, 0.24 g | FC=1C=C(C=CC1)N1C(=CC=2C1=NC=CC2)C(C)N | C15H14FN3
reactant | triethylamine | 7.5 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | tert-Butyl {1-[1-(3-fluorophenyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]ethyl}carbamate | 0.16 g, 48% | FC=1C=C(C=CC1)N1C(=CC=2C1=NC=CC2)C(C)NC(OC(C)(C)C)=O | C20H22FN3O2
